data/polar.json
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH2:6]1[N:16]2[CH2:7][CH2:21][N:9]([CH2:41][c:13]3[cH:23][cH:27][cH:34][cH:28][cH:24]3)[c:31]3[c:14]2[c:30]([cH:17][n:15][cH:18]3)[N:8]([CH2:40][c:12]2[cH:22][cH:26][cH:33][cH:29][cH:25]2)[CH2:20]1.[O:1]=[N+:38]([O-:10])[c:35]1[cH:2][cH:4][c:11]([CH:36]=[CH:19][N+:32]([O-:37])=[O:39])[cH:5][cH:3]1>>[O:1]=[N+:38]([O-:10])[c:35]1[cH:2][cH:4][c:11]([CH:36]([N:15]2[CH:17]=[C:30]3[N:8]([CH2:40][c:12]4[cH:22][cH:26][cH:33][cH:29][cH:25]4)[CH2:20][CH2:6][N+:16]4=[C:14]3[C:31](=[CH:18]2)[N:9]([CH2:41][c:13]2[cH:23][cH:27][cH:34][cH:28][cH:24]2)[CH2:21][CH2:7]4)[CH:19]=[N+:32]([O-:37])[O-:39])[cH:5][cH:3]1", "epd": [["LP-/Pi+", [16], [14, 16]], ["Pi-/Pi+", [30, 14], [17, 30]], ["Pi-/Sigma+", [15, 17], [15, 36]], ["Pi-/Pi+", [36, 19], [19, 32]], ["Pi-/LP+", [32, 39], [39]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH3:1][C:7]([CH3:2])=[N+:14]([O-:19])[O-:20].[O:3]=[S:18](=[O:4])([N:16]([F:15])[S:17](=[O:5])(=[O:6])[c:25]1[cH:8][cH:21][cH:12][cH:24][cH:11]1)[c:26]1[cH:9][cH:22][cH:13][cH:23][cH:10]1>>[CH3:1][C:7]([CH3:2])([N+:14](=[O:19])[O-:20])[F:15].[O:3]=[S:18](=[O:4])([N-:16][S:17](=[O:5])(=[O:6])[c:25]1[cH:8][cH:21][cH:12][cH:24][cH:11]1)[c:26]1[cH:9][cH:22][cH:13][cH:23][cH:10]1", "epd": [["LP-/Pi+", [19], [14, 19]], ["Pi-/Sigma+", [7, 14], [7, 15]], ["Sigma-/LP+", [15, 16], [16]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:5]1([Cl:18])=[C:6]([Cl:19])[C:8](=[O:12])[C:14]([C:21]#[N:25])=[C:15]([C:22]#[N:26])[C:7]1=[O:11].[S:1]1(=[O:23])(=[O:24])[c:13]2[c:3]([cH:10][cH:2][cH:16][cH:9]2)[C:20]([O-:4])=[N:17]1>>[S:1]1(=[O:23])(=[O:24])[c:13]2[c:3]([cH:10][cH:2][cH:16][cH:9]2)[C:20](=[O:4])[N:17]1[C:14]1([C:21]#[N:25])[C:8](=[O:12])[C:6]([Cl:19])=[C:5]([Cl:18])[C:7]([O-:11])=[C:15]1[C:22]#[N:26]", "epd": [["LP-/Pi+", [4], [20, 4]], ["Pi-/Sigma+", [17, 20], [17, 14]], ["Pi-/Pi+", [14, 15], [15, 7]], ["Pi-/LP+", [7, 11], [11]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[Cl-:1].[cH:2]1[c:6]([CH+:18][c:7]2[cH:3][c:10]([F:14])[cH:17][c:11]([F:15])[cH:4]2)[cH:5][c:8]([F:12])[cH:16][c:9]1[F:13]>>[Cl:1][CH:18]([c:6]1[cH:2][c:9]([F:13])[cH:16][c:8]([F:12])[cH:5]1)[c:7]1[cH:3][c:10]([F:14])[cH:17][c:11]([F:15])[cH:4]1", "epd": [["LP-/Sigma+", [1], [1, 18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:12]1[cH:9][c:13]([N+:17](=[O:8])[O-:19])[cH:18][c:11]2[c:22]1[n:16][o:20][n+:26]2[O-:3])[O-:14].[cH:4]1[cH:6][c:7]2[c:24]([cH:15][cH:25]1)[CH:23]=[CH:5][CH:21]2[Li:10]>>[Li+:10].[N+:1](=[O:2])([C:12]1=[CH:9][C:13](=[N+:17]([O-:8])[O-:19])[CH:18]([CH:21]2[CH:5]=[CH:23][c:24]3[c:7]2[cH:6][cH:4][cH:25][cH:15]3)[c:11]2[c:22]1[n:16][o:20][n+:26]2[O-:3])[O-:14]", "epd": [["Sigma-/Sigma+", [21, 10], [21, 18]], ["Pi-/Pi+", [18, 13], [13, 17]], ["Pi-/LP+", [17, 8], [8]]]}
{"reaction_name": "Aryl diazonium azidation", "rsmi": "[N-:8]=[N+:10]=[N-:9].[c:1]1([N+:11]#[N:7])[cH:3][cH:5][cH:2][cH:6][cH:4]1>>[N:7]#[N:11].[c:1]1([N:8]=[N+:10]=[N-:9])[cH:3][cH:5][cH:2][cH:6][cH:4]1", "epd": [["LP-/Sigma+", [8], [1, 8]], ["Sigma-/LP+", [1, 11], [11]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:9]1[cH:3][n:7][c:11]2[c:14]([n+:6]([O-:5])[o:10][n:23]2)[cH:15]1)(=[O:16])[O-:19].[cH:2]1[c:18]2[cH:17][cH:24][c:21]([S-:8])[cH:13][c:22]2[cH:12][cH:4][cH:20]1>>[N+:1](=[C:9]1[CH:3]=[N:7][c:11]2[c:14]([n+:6]([O-:5])[o:10][n:23]2)[CH:15]1[S:8][c:21]1[cH:13][c:22]2[cH:12][cH:4][cH:20][cH:2][c:18]2[cH:17][cH:24]1)([O-:16])[O-:19]", "epd": [["LP-/Sigma+", [8], [8, 15]], ["Pi-/Pi+", [15, 9], [9, 1]], ["Pi-/LP+", [1, 16], [16]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[C:1]12=[N:5][CH2:8][CH2:23][CH2:21][N:11]1[c:6]1[c:16]([cH:2][cH:29][cH:22][cH:27]1)[S:12]2.[cH:3]1[cH:14][cH:4][c:7]2[c:15]([o+:9][c:13](-[c:25]3[cH:19][cH:17][cH:26][cH:18][cH:20]3)[cH:10][cH:24]2)[cH:28]1>>[c:1]12[n+:11]([c:6]3[c:16]([cH:2][cH:29][cH:22][cH:27]3)[s:12]1)[CH2:21][CH2:23][CH2:8][N:5]2[CH:24]1[c:7]2[cH:4][cH:14][cH:3][cH:28][c:15]2[O:9][C:13]([c:25]2[cH:19][cH:17][cH:26][cH:18][cH:20]2)=[CH:10]1", "epd": [["LP-/Pi+", [11], [1, 11]], ["Pi-/Sigma+", [5, 1], [5, 24]], ["Pi-/Pi+", [24, 10], [10, 13]], ["Pi-/LP+", [13, 9], [9]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1=[CH:5][c:6]2[cH:15][cH:14][cH:24][cH:10][c:16]2[CH:25]1[Na:20].[cH:2]1[c:7]([N+:17](=[O:11])[O-:22])[cH:3][c:8]([N+:18](=[O:12])[O-:21])[cH:4][c:9]1[N+:19](=[O:13])[O-:23]>>[CH:1]1=[CH:5][c:6]2[cH:15][cH:14][cH:24][cH:10][c:16]2[CH:25]1[CH:2]1[C:7](=[N+:17]([O-:11])[O-:22])[CH:3]=[C:8]([N+:18](=[O:12])[O-:21])[CH:4]=[C:9]1[N+:19](=[O:13])[O-:23].[Na+:20]", "epd": [["Sigma-/Sigma+", [25, 20], [25, 2]], ["Pi-/Pi+", [2, 7], [7, 17]], ["Pi-/LP+", [17, 11], [11]]]}
